US07858640B2
{3-[2-chloro-4-(pyrrolidine-1-carbonyl)benzyl]-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy}acetic Acid Methyl Ester
The title compound was prepared by the method of Preparation 65c using 2-[2-chloro-4-(pyrrolidine-1-carbonyl)benzyl]-3-oxopentanoic acid ethyl ester and (3-amino-4-fluorophenoxy)acetic acid methyl ester.

reactant | 2-[2-chloro-4-(pyrrolidine-1-carbonyl)benzyl]-3-oxopentanoic acid ethyl ester | C(C)OC(C(C(CC)=O)CC1=C(C=C(C=C1)C(=O)N1CCCC1)Cl)=O | C19H24ClNO4
reactant | (3-amino-4-fluorophenoxy)acetic acid methyl ester | COC(COC1=CC(=C(C=C1)F)N)=O | C9H10FNO3
product | {3-[2-chloro-4-(pyrrolidine-1-carbonyl)benzyl]-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy}acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=C(C=C(C=C1)C(=O)N1CCCC1)Cl)=O)=O | C26H26ClFN2O5
